US06071927
(2S,3R)-1-tert-Butoxycarbonyl-2-phenyl-3-(2phenylprop-1-en-3-yl)piperidin-3-ol
A Grignard reagent was prepared from 3-bromo-2-phenylprop-1-ene (Description 93, 150 mg, 0.76 mmol) and magnesium metal (24 mg, 1 mmol) in THF (4 mL). The solution was cooled to -30° C. and a solution of (2S)-1-tert-butoxycarbonyl-2-phenylpiperidin-3-one (Description 1, 161 mg, 0.59 mmol) in THF (1 mL) was added. The mixture was stirred at ambient temperature for 16 h., then saturated aqueous ammonium chloride (10 mL) was added. The mixture was extracted with ethyl acetate (2×20 mL) and the combined organic fractions were dried (Na2SO4). The solvent was evaporated under reduced pressure and the residue was purified by column chromatography on silica gel, eluting with hexane/ethyl acetate (85:15) to give the title compound as an oil (52 mg). 1H NMR (360 MHz, CDCl3) δ7.44-7.20 (10 H, m), 5.43 (1 H, s), 5.25 (1 H, s), 5.12 (1 H, s), 4.06-4.03 (1 H, m), 3.34-3.30 (1 H, m), 3.08-2.94 (3 H, m), 2.47-2.43 (1 H, m), 1.93-1.86 (2 H, m), 1.70-1.64 (2 H, m), and 1.38 (9 H, s). m/z (ES+) 394 (M+1).

reactant | 3-bromo-2-phenylprop-1-ene | 0.76 mmol, 150 mg | BrCC(=C)C1=CC=CC=C1 | C9H9Br
reactant | magnesium | 1 mmol, 24 mg | [Mg] | Mg
reactant | (2S)-1-tert-butoxycarbonyl-2-phenylpiperidin-3-one | 0.59 mmol, 161 mg | C(C)(C)(C)OC(=O)N1[C@H](C(CCC1)=O)C1=CC=CC=C1 | C16H21NO3
reactant | ammonium chloride | 10 mL | [Cl-].[NH4+]
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | (2S,3R)-1-tert-Butoxycarbonyl-2-phenyl-3-(2phenylprop-1-en-3-yl)piperidin-3-ol | 52 mg | C(C)(C)(C)OC(=O)N1[C@H]([C@](CCC1)(O)CC(=C)C1=CC=CC=C1)C1=CC=CC=C1 | C25H31NO3
